US09169212B2
To a solution of methyl 4-(cyclopropoxy)-3-[(6-hydroxy-1,4-oxazepan-4-yl)sulfonyl]benzoate (620.00 mg, 1.67 mmol, 1.00 eq) in THF (5.00 mL) and H2O (1.00 mL). The formed mixture was stirred at 50° C. for 3 hr. The reaction mixture was neutralized with 1N HCl solution and extracted with EA, the combined organic layer was dried over Na2SO4, concentrated to afford crude product 4-(cyclopropoxy)-3-[(6-hydroxy-1,4-oxazepan-4-yl)sulfonyl]benzoic acid (510.00 mg, 1.43 mmol, 85.45% yield) as white solid.

reactant | methyl 4-(cyclopropoxy)-3-[(6-hydroxy-1,4-oxazepan-4-yl)sulfonyl]benzoate | 1.67 mmol, 620.00 mg, 1.00 eq | C1(CC1)OC1=C(C=C(C(=O)OC)C=C1)S(=O)(=O)N1CCOCC(C1)O | C16H21NO7S
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
solvent | H2O | 1.00 mL | O | H2O
product | 4-(cyclopropoxy)-3-[(6-hydroxy-1,4-oxazepan-4-yl)sulfonyl]benzoic acid | 1.43 mmol, 510.00 mg, 85.45% yield | C1(CC1)OC1=C(C=C(C(=O)O)C=C1)S(=O)(=O)N1CCOCC(C1)O | C15H19NO7S
